US07750154B2
N-benzyl-N-methyl-4-oxopiperidiumbromide (3.68 g) in water (6 ml) was added portionwise over 30 minutes to a stirred mixture of N-cyclopropylamine (0.404 g) and potassium carbonate in ethanol (15 ml) at 75° C. The mixture was stirred at 75° C. for 45 minutes. The reaction mixture was evaporated, took up into water (20 ml) and extracted into methylene chloride. The organic extracts were combined and concentrated under reduced pressure and the residue was triturated with ether and the soluble fraction was isolated by evaporation (1.11 g) to give N-cyclopropyl-4-piperidone; NMR Spectrum: (CDCl3) 0.50 (m, 4H), 1.73 (m, 1H), 2.40 (t, 4H), 2.91 (t, 4H). B) Sodium borohydride (0.085 g) was added to a stirred solution of N-cyclopropyl-4-piperidone (0.312 g) in ethanol under an atmosphere of argon. The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was evaporated, took up into water (20 ml) and extracted into methylene chloride. The organic extracts were combined and concentrated under reduced pressure to give N-cyclopropyl-4-piperidinol (0.298 g); NMR Spectrum: (CDCl3) 0.50 (m, 4H), 1.35 (s, 1H), 1.55 (m, 2H), 1.86 (m, 2H) 2.34 (m, 2H), 2.89 (m, 2H), 3.70 (m, 1H). C) Using an analogous procedure to that described paragraph (A) in the portion of Example 15 which is concerned with the preparation of starting material, N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide was reacted with N-cyclopropyl-4-piperidol to give N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-[(1-cyclopropylpiperidine-4-yl)oxy]-2-nitrobenzamide; Mass Spectrum: M+H+ 479.

reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)F)[N+](=O)[O-])=O)C | C18H16FN3O4
reactant | N-cyclopropyl-4-piperidol | C1(CC1)N1CCC(CC1)O | C8H15NO
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-[(1-cyclopropylpiperidine-4-yl)oxy]-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)OC1CCN(CC1)C1CC1)[N+](=O)[O-])=O)C | C26H30N4O5
